data/mechanisms/records/IMS8-EQ8.91.json
{"mechanism_id": "IMS8-EQ8.91", "species": [{"species_id": "dodecylamine_molecular_ion_N_ionized", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH:5]([1H:33])[CH:4]([1H:31])[CH2:3][CH2:2][CH:1]([1H:32])[NH2+:20]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ammonium_delta_carbon_radical", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH:5]([1H:33])[CH:4][CH2:3][CH2:2][CH:1]([1H:32])[NH2+:20][1H:31]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ammonium_alpha_carbon_radical", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH:5]([1H:33])[CH:4]([1H:32])[CH2:3][CH2:2][CH:1][NH2+:20][1H:31]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "branched_ammonium_primary_radical", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH:5]([1H:33])[CH:4]([1H:32])[CH2:3][CH:1]([CH2:2])[NH2+:20][1H:31]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alpha_methyl_ammonium_remote_carbon_radical", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH:5][CH:4]([1H:32])[CH2:3][CH:1]([CH2:2][1H:33])[NH2+:20][1H:31]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alpha_methylalkylamine_radical_cation", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH:5]([1H:31])[CH:4]([1H:32])[CH2:3][CH:1]([CH2:2][1H:33])[NH2+:20]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylidene_iminium_C2H6N_m44", "mapped_smiles": "[CH2:2]([1H:33])[CH:1]=[NH2+:20]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "decyl_radical", "mapped_smiles": "[CH2:3][CH:4]([1H:32])[CH:5]([1H:31])[CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH3:12]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dodecylamine_molecular_ion_N_ionized"]}, {"state_id": "state_after_rH_1_5_to_N", "species_ids": ["distonic_ammonium_delta_carbon_radical"]}, {"state_id": "state_after_rH_1_4_C_to_C", "species_ids": ["distonic_ammonium_alpha_carbon_radical"]}, {"state_id": "state_after_rC_1_2_shift", "species_ids": ["branched_ammonium_primary_radical"]}, {"state_id": "state_after_rH_1_5_C_to_C", "species_ids": ["alpha_methyl_ammonium_remote_carbon_radical"]}, {"state_id": "state_alpha_methylalkylamine_ion", "species_ids": ["alpha_methylalkylamine_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethylidene_iminium_C2H6N_m44", "decyl_radical"]}], "steps": [{"step_id": "step_rH_1_5_delta_H_to_nitrogen", "from_state": "state_precursor", "to_state": "state_after_rH_1_5_to_N", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 31]}, "target": {"type": "bond", "atom_maps": [20, 31]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [20]}, "target": {"type": "bond", "atom_maps": [20, 31]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 31]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_1_4_C_to_C", "from_state": "state_after_rH_1_5_to_N", "to_state": "state_after_rH_1_4_C_to_C", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 32]}, "target": {"type": "bond", "atom_maps": [4, 32]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 32]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 32]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rC_1_2_alkyl_shift", "from_state": "state_after_rH_1_4_C_to_C", "to_state": "state_after_rC_1_2_shift", "step_class": "skeletal_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_1_5_C_to_primary_radical", "from_state": "state_after_rC_1_2_shift", "to_state": "state_after_rH_1_5_C_to_C", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [5, 33]}, "target": {"type": "bond", "atom_maps": [2, 33]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 33]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 33]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_1_5_N_to_carbon_radical", "from_state": "state_after_rH_1_5_C_to_C", "to_state": "state_alpha_methylalkylamine_ion", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [20, 31]}, "target": {"type": "bond", "atom_maps": [5, 31]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [5, 31]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [20, 31]}, "target": {"type": "atom", "atom_maps": [20]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage_to_m44", "from_state": "state_alpha_methylalkylamine_ion", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [20]}, "target": {"type": "bond", "atom_maps": [1, 20]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [1, 20]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_1_5_to_N", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_5_delta_H_to_nitrogen", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.91", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.7, "curator_note": "Arrow 1 of Equation 8.91, labelled 'rH 1,5'. The scheme is generic (R on a primary n-alkylamine drawn with five CH2/CH groups between R and NH2, ionized on nitrogen: '+.' over NH2). The text quantifies the resulting C2H6N+ ion as '<1% for hexylamine to 30% for dodecylamine (Figure 3.16)', so R = n-heptyl and the instantiation encoded here is 1-DODECYLAMINE; the atom numbering used throughout is C-1 = carbon bonded to N ... C-5, with map 20 = N. Book draws 1 arc: a single long fishhook from the explicitly drawn H on C-4 sweeping right to the N (move <1>). Move <2> (the N+. odd electron pairing into the forming N-H bond) and move <3> (the implicit homolysis hook that leaves the second C-H electron on C-4 as the '.' drawn in the next structure) are NOT drawn on the page; both are required for electron balance. DRAWING DEFECT DISCLOSED: the book labels the nitrogen of the next two structures '+NH2' even though the H just accepted makes it an ammonium; only from the fourth structure on does it write '+NH3'. Mass balance (the molecule cannot lose an H here) forces NH3+, and NH3+ is what is encoded."}, {"evidence_id": "ev_step_rH_1_4", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_4_C_to_C", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.91", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.65, "curator_note": "Arrow 2 of Equation 8.91, labelled 'rH 1,4'. In the second structure the book draws an explicit vertical bond from the carbon ALPHA to nitrogen (C-1) down to an 'H' (checked at high magnification: the bond starts at the chain apex, not at the N) and an arc running from that H leftwards to the '.' on C-4; counting C-4(1)-C-3(2)-C-2(3)-C-1(4) confirms the printed '1,4' label, so the migrating H is a C-1 hydrogen and not the H that was just delivered to N. Book draws 1 arc; move <1> is drawn (the C1-H bond electron into the forming C4-H bond), moves <2,3> are the implicit pairing hook from the C-4 radical and the implicit homolysis hook that leaves the odd electron on C-1 (not drawn on the page) - the next structure shows that '.' on C-1."}, {"evidence_id": "ev_step_rC_1_2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rC_1_2_alkyl_shift", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.91", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.6, "curator_note": "Arrow 3 of Equation 8.91, labelled 'r-C 1,2' - a CARBON-skeleton (1,2-alkyl) migration, which is what makes this a 'pseudo-alpha-cleavage' rather than a true alpha cleavage. Book draws 1 arc: its tail sits on the C2-C3 bond of the drawn chain and its head points at the radical carbon C-1, i.e. the C-3 alkyl group migrates from C-2 onto the adjacent radical centre C-1 and the odd electron is left behind on C-2 as the primary '.CH2' the next structure prints. Moves <1,2,3> encode that: one electron of the migrating C2-C3 sigma bond into the new C1-C3 bond (this is the drawn arc), the C-1 odd electron into the same new bond, and the second C2-C3 electron onto C-2; the last two are implicit hooks required for electron balance (not drawn on the page). Product as drawn: a chain carbon bearing NH3+, a CH2. branch and the R-substituted chain."}, {"evidence_id": "ev_step_rH_1_5_C_to_C", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_5_C_to_primary_radical", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.91", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.6, "curator_note": "Arrow 4 of Equation 8.91, labelled 'rH 1,5'. In the fourth structure the book draws an explicit H on C-5 (the carbon next to R) and an arc from it to the primary '.CH2'; counting round the branch, CH2(1)-C1(2)-C3(3)-C4(4)-C5(5), reproduces the printed '1,5'. Book draws 1 arc = move <1>; moves <2,3> (the pairing hook from the CH2 radical and the implicit homolysis hook leaving the odd electron on C-5) are not drawn but are required for balance. The product the book prints - R-CH(.)-CH2-CH2-CH(NH3+)-CH3 - confirms both: the branch has become a methyl group and the radical sits on C-5."}, {"evidence_id": "ev_step_rH_1_5_N_to_C", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_5_N_to_carbon_radical", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.91", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.6, "curator_note": "Arrow 5 of Equation 8.91, labelled 'rH 1,5'. Book draws 0 arcs here - the flow is read off the two drawn structures: the ammonium NH3+ hands one N-H back to the C-5 radical (N(1)-C1(2)-C3(3)-C4(4)-C5(5) = the printed 1,5) and the nitrogen ends as the '+.'-labelled NH2 of the alpha-methylalkylamine radical cation the book draws next. All three moves are therefore undrawn reconstructions: <1> one N-H bonding electron into the forming C5-H bond, <2> the C-5 odd electron into the same bond, <3> the second N-H electron back onto N as the new odd electron. Which of the three N-H hydrogens migrates is arbitrary (they are equivalent); the tracked atom [1H:31] - the same H taken from C-4 in step 1 - is used, purely for bookkeeping."}, {"evidence_id": "ev_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_to_m44", "support_type": "textbook_proposed", "locator": {"page": 204, "equation": "8.91", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.75, "curator_note": "Final arrow of Equation 8.91, a bare vertical arrow labelled only 'alpha'. Book draws 0 arcs; the canonical three-fishhook alpha-cleavage encoding is reconstructed from the drawn products (R-CH2CH2-CH2. plus CH3CH=NH2+, 'm/z 44'): <1> the N+. odd electron into the forming C1=N pi bond, <2> one electron of the breaking C1-C3 sigma bond into that same pi bond, <3> the second C1-C3 electron onto C-3, which is the '.' drawn on the alkyl radical. The bond cleaved is the one between the amine-bearing carbon and the alkyl chain, so the drawn methyl stays with the charge - this is why the rearranged (alpha-methyl) skeleton gives C2H6N+ at m/z 44 instead of the CH2=NH2+ (m/z 30) of a normal primary amine alpha cleavage."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 185.2139, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C2H6N_44", "species_id": "ethylidene_iminium_C2H6N_m44", "step_id": "step_alpha_cleavage_to_m44", "observed_mz": 44.0495, "relative_intensity": 0.3, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
